US06414145B1
A solution of 3-cyano-5-phenyltoluene (5.06 g; 26 mmol) and potassium hydroxide (2.94 g; 52 mmol) in methanol (40 ml) and water (60 ml) was refluxed for 24 hours. After evaporation of the methanol and filtration of the unsoluble material, the mixture was acidified to pH 2 with 6N HCl. The resulting precipitate was filtered, washed with water and dried to give 3-methyl-5-phenylbenzoic acid. Yield=65%.

reactant | 3-cyano-5-phenyltoluene | 26 mmol, 5.06 g | C(#N)C=1C=C(C=C(C1)C1=CC=CC=C1)C | C14H11N
reactant | potassium hydroxide | 52 mmol, 2.94 g | [OH-].[K+]
reactant | methanol | 40 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
product | 3-methyl-5-phenylbenzoic acid | Yield=65% | CC=1C=C(C(=O)O)C=C(C1)C1=CC=CC=C1 | C14H12O2
